US05374656
The procedure is as in Example 1, but 0.85 g of 2-[3-(3-methylphenyl)ureido]acetic acid, 1.25 g of di-tert-butyl 2-anilinomalonate and 0.3 cm3 of thionyl chloride are used as starting materials. The product obtained is purified by chromatography on 50 g of silica (0.04-0.063 mm) contained in a column 3 cm in diameter [eluent: methanol/dichloromethane (1.5/98.5 by volume)], using an excess pressure of 40 kPa of nitrogen and collecting 25-cm3 fractions. Fractions 6 to 15 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 35° C. and the residue obtained is crystallization from 10 cm3 of diethyl ether. 0.67 g of di-tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}malonate melting at 175° C. are then obtained.

reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 0.85 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | di-tert-butyl 2-anilinomalonate | 1.25 g | N(C1=CC=CC=C1)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H25NO4
reactant | thionyl chloride | 0.3 cm3 | S(=O)(Cl)Cl | Cl2OS
product | di-tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}malonate | 0.67 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C27H35N3O6
